US05004747
The (E)-3-[4-(4-fluorophenyl)-2-isopropyl-1-oxo-1,2-dihydroisoquinolin-3-yl]prop-2-enoyl chloride, prepared as described in section (i), was dissolved in dry toluene (10 ml). The solution was flushed with nitrogen, and then it was treated with tetrakis(triphenylphosphine)palladium(0) (58 mg). The mixture was then treated with tributyltin hydride (0.27 ml), dropwise, during 5 minutes and the resulting mixture was stirred at room temperature for 90 minutes. The solvent was then evaporated off and the residue was subjected to flash chromatography on silica gel, using ethyl acetate as eluent. The product was triturated with petroleum ether (b.p. 60°-80° C.), to give (E)-3-[4-(4-fluorophenyl)-2-isopropyl-1-oxo-1,2-dihydroisoquinolin-3-yl]prop-2-enal (100 mg) in the form of a yellow solid, m.p. 159°-161° C. [Elemental analysis: C, 75.0; H, 5.44; N, 4.13; F, 5.86%; calculated: C, 75.21; H, 5.41; N, 4.18; F, 5.67%].

reactant | (E)-3-[4-(4-fluorophenyl)-2-isopropyl-1-oxo-1,2-dihydroisoquinolin-3-yl]prop-2-enoyl chloride | FC1=CC=C(C=C1)C1=C(N(C(C2=CC=CC=C12)=O)C(C)C)/C=C/C(=O)Cl | C21H17ClFNO2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-3-[4-(4-fluorophenyl)-2-isopropyl-1-oxo-1,2-dihydroisoquinolin-3-yl]prop-2-enal | 100 mg | FC1=CC=C(C=C1)C1=C(N(C(C2=CC=CC=C12)=O)C(C)C)/C=C/C=O | C21H18FNO2
